US05763458
Proceeding as in Example 4, Step (b), but replacing iodomethane with 3,5-dimethoxybenzylchloride and 1-(4-acetylamino-5-chloro-2-hydroxyphenyl)-5-chloropentan-1-one with 1-(4-acetylamino-5-bromo-2-hydroxyphenyl)-5-bromo-pentan-1-one, gave 1-[4-acetylamino-5-bromo-2-(3,5-dimethoxybenzyloxy)phenyl]-5-bromopentan-1-one.

reactant | 3,5-dimethoxybenzylchloride | COC=1C=C(CCl)C=C(C1)OC | C9H11ClO2
reactant | 1-(4-acetylamino-5-chloro-2-hydroxyphenyl)-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)O | C13H15Cl2NO3
reactant | 1-(4-acetylamino-5-bromo-2-hydroxyphenyl)-5-bromo-pentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Br)C(CCCCBr)=O)O | C13H15Br2NO3
product | 1-[4-acetylamino-5-bromo-2-(3,5-dimethoxybenzyloxy)phenyl]-5-bromopentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Br)C(CCCCBr)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Br2NO5
